US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoyl]-2-methylpiperidine
2-Methylpiperidine (0.039 g, 0.391 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.112 g, 0.587 mmol) were added to a methylene chloride solution (5 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoic acid (0.080 g, 0.196 mmol) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=9:1) to obtain the titled compound (0.045 g, 0.0919 mmol, 47%).

reactant | 2-Methylpiperidine | 0.391 mmol, 0.039 g | CC1NCCCC1 | C6H13N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.587 mmol, 0.112 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoic acid | 0.196 mmol, 0.080 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC1=CC=CC=C1)C)=O | C23H20O7
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenoxybenzoyl]-2-methylpiperidine | 0.0919 mmol, 0.045 g, 47% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2C(CCCC2)C)C1)OC1=CC=CC=C1)C)=O | C29H31NO6
